US04921785
Step 3: Synthesis of 5-t-Butyl-2-(4-(2-hydroxyethylsulfonyl)-2-nitrophenyl)-4-iso-oxazolin-3-one
30 g of 2-(4-chloro-3-nitrobenzenesulfonyl)ethanol, 19.1 g ot 5-t-butyl-3-hydroxyiso-oxazole, 28 g of sodium bicarbonate and 200 ml of dimethylsulfoxide were mixed together and reacted at 80° C. for a period of 8 hours. After cooling, the reaction mixture was poured into of water and the mixture was extracted with ethyl acetate. The organic layer was recovered and, after removing the solvent by distillation under reduced pressure, the main product was isolated using silica gel column chromatography as an oily product.

reactant | 2-(4-chloro-3-nitrobenzenesulfonyl)ethanol | 30 g | ClC1=C(C=C(C=C1)S(=O)(=O)CCO)[N+](=O)[O-] | C8H8ClNO5S
reactant | 5-t-butyl-3-hydroxyiso-oxazole | 19.1 g | C(C)(C)(C)C1=CC(=NO1)O | C7H11NO2
reactant | sodium bicarbonate | 28 g | C([O-])(O)=O.[Na+]
reactant | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-t-Butyl-2-(4-(2-hydroxyethylsulfonyl)-2-nitrophenyl)-4-iso-oxazolin-3-one | C(C)(C)(C)C1=CC(N(O1)C1=C(C=C(C=C1)S(=O)(=O)CCO)[N+](=O)[O-])=O | C15H18N2O7S
